US07417052B2
(21a) methyl 2-[4-[(3-ethoxycarbonylphenylamino)methyl]phenyl]-2-oxoacetate
To a solution of ethyl 3-aminobenzoate (7.3 ml) and methyl 2-[4-(bromomethyl)phenyl]-2-oxoacetate (6.4 g) in dioxane (40 ml) was added diisopropylethylamine (6.4 ml), and the mixture was stirred at 60° C. for 2 hrs. The mixture was allowed to return to room temperature and toluene (330 ml) was added. The mixture was left standing at 0° C. for 5 hrs and the precipitated diisopropylethylamine hydrobromide was filtered off. The filtrate was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate and water. The ethyl acetate layer was separated, washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate:4-1 v/v) to give the object compound (7.61 g) as a syrup.

reactant | ethyl 3-aminobenzoate | 7.3 ml | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | methyl 2-[4-(bromomethyl)phenyl]-2-oxoacetate | 6.4 g | BrCC1=CC=C(C=C1)C(C(=O)OC)=O | C10H9BrO3
reactant | diisopropylethylamine | 6.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluene | 330 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | methyl 2-[4-[(3-ethoxycarbonylphenylamino)methyl]phenyl]-2-oxoacetate | 7.61 g | C(C)OC(=O)C=1C=C(C=CC1)NCC1=CC=C(C=C1)C(C(=O)OC)=O | C19H19NO5
